US07968573B2
A mixture of 0.40 g of 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one, 0.08 ml of hydrazine monohydrate and 10 ml of tetrahydrofuran was stirred at room temperature for 3 hours. The reaction mixture was poured into water and then filtered. The resulting filter cake was washed with water and methyl tert-butyl ether. The filter cake was dissolved in ethyl acetate, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 0.35 g of 3-bromo-N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide of the formula:

reactant | 2-[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one | 0.40 g | BrC1=NN(C(=C1)C1=NC2=C(C(O1)=O)C=C(C=C2C)Cl)C2=NC=CC=C2Cl | C17H9BrCl2N4O2
reactant | hydrazine monohydrate | 0.08 ml | O.NN
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-bromo-N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | 0.35 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1C)Cl)C(=O)NN)C1=NC=CC=C1Cl | C17H13BrCl2N6O2
